US08492582B2
A 2 mol/L aqueous solution of sodium hydroxide (0.69 mL) was added to a solution mixture of the obtained benzyl 2-(benzyloxy)-4-(pyridin-2-yl)benzoate (0.18 g) in dioxane (0.9 mL) and methanol (0.9 mL), followed by stirring at room temperature for 2 hours. Water was added to the reaction mixture. After adjusting the pH to 4 with 6 mol/L hydrochloric acid, ethyl acetate was added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Diisopropyl ether and hexane were added to the obtained residue, and the solid substance was collected by filtration to obtain 0.12 g of 2-(benzyloxy)-4-(pyridin-2-yl)benzoic acid as a white solid.

reactant | sodium hydroxide | 0.69 mL | [OH-].[Na+]
reactant | benzyl 2-(benzyloxy)-4-(pyridin-2-yl)benzoate | 0.18 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)C1=NC=CC=C1 | C26H21NO3
reactant | Water | O | H2O
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | dioxane | 0.9 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 0.9 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(benzyloxy)-4-(pyridin-2-yl)benzoic acid | 0.12 g | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=CC(=C1)C1=NC=CC=C1 | C19H15NO3
